US06187769B1
Synthesis of 4-(5-bromopentyl)-4,5-dihydro-1,4-benzoxazepin-5-one
250 mg of 4,5-dihydro-1,4-benzoxazepin-5-one was dissolved in 15 ml of dimethylformamide, then 74 mg (1.2 equivalents) of 60% sodium hydride was added under ice cooling. This was agitated for 30 minutes, then 0.51 ml (2.4 equivalents) of 1,5-dibromopentane was added and the resultant mixture was agitated at room temperature for 6 hours.

reactant | 4,5-dihydro-1,4-benzoxazepin-5-one | 250 mg | O1C=CNC(C2=C1C=CC=C2)=O | C9H7NO2
reactant | sodium hydride | 74 mg, 1.2 equivalents | [H-].[Na+]
reactant | 1,5-dibromopentane | 0.51 ml, 2.4 equivalents | BrCCCCCBr | C5H10Br2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-(5-bromopentyl)-4,5-dihydro-1,4-benzoxazepin-5-one | BrCCCCCN1C=COC2=C(C1=O)C=CC=C2 | C14H16BrNO2
